US05500453
A solution of 4.30 g of lithium allyltris(p-bromophenyl)borate in 50 ml of acetonitrile was added to a solution of 5.00 g of phenyl (1-naphthyl) (1-naphthylmethyl)sulfonium hexafluoroantimonate in 100 ml of acetone, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.52 g of phenyl(1-naphthyl)(1-naphthylmethyl) sulfonium-allyltris(p-bromophenyl)borate.

reactant | lithium allyltris(p-bromophenyl)borate | 4.30 g | C(C=C)[B-](C1=CC=C(C=C1)Br)(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br.[Li+]
reactant | phenyl (1-naphthyl) (1-naphthylmethyl)sulfonium hexafluoroantimonate | 5.00 g | F[Sb-](F)(F)(F)(F)F.C1(=CC=CC=C1)[S+](CC1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | phenyl(1-naphthyl)(1-naphthylmethyl) sulfonium-allyltris(p-bromophenyl)borate | 2.52 g | C(C=C)[B-](C1=CC=C(C=C1)Br)(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br.C1(=CC=CC=C1)[S+](CC1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | InChI=1S/C27H21S.C21H17BBr3/c1-2-15-24(16-3-1)28(27-19-9-13-22-11-5-7-18-26(22)27)20-23-14-8-12-21-10-4-6-17-25(21)23;1-2-15-22(16-3-9-19(23)10-4-16,17-5-11-20(24)12-6-17)18-7-13-21(25)14-8-18/h1-19H,20H2;2-14H,1,15H2/q+1;-1
